US05750526
8.32 g of 6-trifluoromethyl-quinoline-4-phosphonic acid diethyl ester is dissolved in 100 ml of glacial acetic acid, mixed with 1.0 g of platinum dioxide and hydrogenated at room temperature. After column chromatography, 5.44 g of 6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-4-phosphonic acid diethyl ester of melting point 94° C. is obtained.

reactant | 6-trifluoromethyl-quinoline-4-phosphonic acid diethyl ester | 8.32 g | C(C)OP(OCC)(=O)C1=CC=NC2=CC=C(C=C12)C(F)(F)F | C14H15F3NO3P
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | platinum dioxide | 1.0 g | [Pt](=O)=O
product | 6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-4-phosphonic acid diethyl ester | 5.44 g | C(C)OP(OCC)(=O)C1CCNC2=CC=C(C=C12)C(F)(F)F | C14H19F3NO3P
